US04348412
5.4 g of 3-trifluoromethyl-4-(1,1,2,2-tetrafluoroethoxy)-aniline are placed into 20 ml of abs. ether, and 3.7 g of 2,6-difluorobenzoylisocyanate dissolved in 10 ml of abs. ether are subsequently added dropwise at room temperature. The solid which has precipitated is filtered off with suction after 1 hour; it is then washed with abs. ether and dried in air. Recrystallisation from toluene yields N-[3-trifluoromethyl-4-(1,1,2,2-tetrafluoroethoxy)-phenyl]-N'-(2,6-difluorobenzoyl)-urea having a melting point of 182°-185° C.

reactant | 3-trifluoromethyl-4-(1,1,2,2-tetrafluoroethoxy)-aniline | 5.4 g | FC(C=1C=C(N)C=CC1OC(C(F)F)(F)F)(F)F | C9H6F7NO
reactant | 2,6-difluorobenzoylisocyanate | 3.7 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | ether | CCOCC | C4H10O
product | N-[3-trifluoromethyl-4-(1,1,2,2-tetrafluoroethoxy)-phenyl]-N'-(2,6-difluorobenzoyl)-urea | FC(C=1C=C(C=CC1OC(C(F)F)(F)F)NC(=O)NC(C1=C(C=CC=C1F)F)=O)(F)F | C17H9F9N2O3
